US04243406
A portion of the methyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate (5.0 g.; 0.018 mol.) in 10 ml. of acetic acid was reacted with 10 ml. of concentrated hydrochloric acid at reflux for six hours. The reaction mixture was cooled to 25° C., and then poured onto 50 g. of ice. The resulting mixture was extracted five times with 25 ml. of methylene chloride. The extracts were combined, dried over magnesium sulfate, filtered, and concentrated to yield a white solid. Recrystallization from ether-hexane yielded 5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylic acid.

reactant | methyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate | 0.018 mol, 5.0 g | COC(=O)C=1C=NOC1C1=CC(=CC=C1)C(F)(F)F | C12H8F3NO3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylic acid | FC(C=1C=C(C=CC1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
